US06686462B2
Preparation of 1-octadecyloxycarbonylphosphonic acid (Formula VII: R═CH3(CH2)17—, R1═R2═H)
Me3SiBr (0.812 mL, 6.15 mmol) was added to a solution of dimethyl octadecyloxycarbonylphosphonate (1.0 g, 2.46 mmol) in CH2Cl2 (20 mL) under argon, and the yellow solution was stirred at room temperature for 4 hours and evaporated under reduced pressure. Trituration of the oily residue with hexane, followed by filtration and drying afforded a hygroscopic white solid of the title compound (0.757 g, 81%); mp 81-82° C.; IR (KBr): υ 2960, 2920, 2860, 1730, 1720, 1475, 1465, 1265, 1240, 1225 cm−1; 1H NMR (CDCl3+CD3OD) δ0.8-1.8 (m, 35H, CH3 (CH2)16), 4.25 (t, 2H, OCH2). Anal. Calcd. for C19H39O5P.0.3H2O : C, 59.43; H, 10.42; P, 8.07. Found: C, 59.77; H, 10.91; P, 8.21.

reactant | Me3SiBr | 6.15 mmol, 0.812 mL | [Si](C)(C)(C)Br | C3H9BrSi
reactant | dimethyl octadecyloxycarbonylphosphonate | 2.46 mmol, 1.0 g | C(CCCCCCCCCCCCCCCCC)OC(=O)P(OC)(OC)=O | C21H43O5P
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-octadecyloxycarbonylphosphonic acid | 0.757 g, 81% | C(CCCCCCCCCCCCCCCCC)OC(=O)P(O)(O)=O | C19H39O5P
